US07935815B2
Synthesis of (2E)-3-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylohydrazide dihydrochloride
Conc. HCl (5.85 mL) was added to the suspension of tert-Butyl 2-{(2E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]prop-2-enoyl}hydrazinecarboxylate (1.17 g, 3.13 mmol) in methanol (5.85 mL) with an ice-bath cooling. The reaction mixture was stirred at room temperature for 30 minutes. 1-Butanol (5.85 mL) and MTBE (5.85 mL) were added to the reaction mixture, and the mixture was stirred for 20 minutes with an ice-bath cooling. The mixture was filtrated, and the residue was washed with 1-butanol-MTBE (2:8) (5.85 mL) and dried under the reduced pressure to obtain the title compound (937 mg, 78.2% yield).

reactant | HCl | 5.85 mL | Cl | ClH
reactant | tert-Butyl 2-{(2E)-3-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]prop-2-enoyl}hydrazinecarboxylate | 3.13 mmol, 1.17 g | COC1=C(C=CC(=N1)/C=C/C(=O)NNC(=O)OC(C)(C)C)N1C=NC(=C1)C | C18H23N5O4
reactant | 1-Butanol | 5.85 mL | C(CCC)O | C4H10O
reactant | MTBE | 5.85 mL | CC(C)(C)OC | C5H12O
solvent | methanol | 5.85 mL | CO | CH4O
product | (2E)-3-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]acrylohydrazide dihydrochloride | 937 mg, 78.2% yield | Cl.Cl.COC1=C(C=CC(=N1)/C=C/C(=O)NN)N1C=NC(=C1)C | InChI=1S/C13H15N5O2.2ClH/c1-9-7-18(8-15-9)11-5-3-10(16-13(11)20-2)4-6-12(19)17-14;;/h3-8H,14H2,1-2H3,(H,17,19);2*1H/b6-4+;;
